US07468367B2
Description 4: 5-(4-Fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl-[2-(2,2,2-trifluoro-ethanoylamino)-ethyl]-amide
An ice-cooled solution of methyl-[2-(2,2,2-trifluoro-ethanoylamino)-ethyl]-carbamic acid dimethyl-ethyl ester, D3 (3.61 g, 13.4 mmol) in dichloromethane (80 ml) was treated with trifluoroacetic acid (20 ml). After stirring at room temperature for 5 h the mixture was poured cautiously onto solid K2CO3 (excess)/ice. The product was extracted with dichloromethane (4×) then 10% methanol-dichloromethane (5×). The combined organics were dried (MgSO4) and the solvent removed in vacuo. The resulting yellow gum (380 mg) was added to a stirring solution of 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (530 mg, 2.2 mmol), N,N-diisopropylethylamine (1.17 ml, 6.7 mmol) and HATU (851 mg, 2.2 mmol). The reaction mixture was stirred at room temperature, under argon for 16 h, then partitioned between ethyl acetate and water. The organic phase was washed with water (2×), brine, dried (MgSO4) and the solvent removed in vacuo. Chromatography (silica gel, 20–100% ethyl acetate-pentane) afforded the title compound as a colourless gum (443 mg).

reactant | methyl-[2-(2,2,2-trifluoro-ethanoylamino)-ethyl]-carbamic acid dimethyl-ethyl ester | CC(C)(C)OC(N(CCNC(C(F)(F)F)=O)C)=O | C10H17F3N2O3
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | 2.2 mmol, 530 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
reactant | N,N-diisopropylethylamine | 6.7 mmol, 1.17 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 2.2 mmol, 851 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 5-(4-Fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl-[2-(2,2,2-trifluoro-ethanoylamino)-ethyl]-amide | 443 mg | CN(C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)CCNC(C(F)(F)F)=O | C16H15F4N3O2S
